US09034900B2
Step 1: 4-bromo-6H-furo[2,3-c]pyridin-7-one
A mixture of 6H-furo[2,3-c]pyridin-7-one (1.0 g, 7.4 mmol) in DMF (30 mL) was treated with NBS (1.32 g, 7.4 mmol) in three equal portions at 0° C. After the resulting mixture was stirred at 15° C. for 2 h, it was treated with water (100 mL) and extracted with EtOAc (30 mL×3). The combined organic layers were washed with brine (30 mL), dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified by chromatography on silica gel (PE/EtOAc=3:1) to give the title compound (600 mg, 38%) as a yellow solid. 1H NMR (DMSO-d6, 400 MHz) δ 11.92 (s, 1H), 8.23 (s, J=2.0 Hz, 1H), 7.47 (s, 1H), 6.88 (m, 1H), 6.88 (s, 1H).

reactant | 6H-furo[2,3-c]pyridin-7-one | 7.4 mmol, 1.0 g | O1C=CC2=C1C(NC=C2)=O | C7H5NO2
reactant | NBS | 7.4 mmol, 1.32 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | water | 100 mL | O | H2O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 4-bromo-6H-furo[2,3-c]pyridin-7-one | 600 mg, 38% | BrC=1C2=C(C(NC1)=O)OC=C2 | C7H4BrNO2
